US08067426B2
Intermediate 39: 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
N,O-bis(trimethylsilyl)acetamide (975 mL, 3.988 mol) was added to a stirred suspension of 2-fluoro-1H-purin-6-amine (200 g, 1.306 mmol) (available from, for example, AlliedSignal, US) in anhydrous acetonitrile (4 L) in a 10 L controlled lab reactor and the resulting mixture heated to reflux and maintained at that temperature for 2 hours. The circulator was then re-programmed and the reaction mixture cooled to 0° C. A solution of tetrahydropyranyl acetate (preparation described in Tetrahedron Letters 2006, 47(27), 4741) (282 g, 1.959 mol) in anhydrous acetonitrile (500 ml) was then added slowly via a dropping funnel followed by trimethylsilyl trifluoromethanesulfonate (283 mL, 1.567 mol) dropwise via a dropping funnel. No significant exotherm was observed. The circulator temperature was re-adjusted to 10° C. and stirring maintained for a further 1 hour. The mixture was then quenched by addition of 1M sodium carbonate (4 L). A solid precipitate was observed and the pH checked to be basic. Additional water was added to the suspension (1 L) and on standing the layers separated with the aqueous layer containing significant solid inorganics. The majority of the aqueous and inorganic solid was separated. The organic layer still contained significant solid and was cooled to 0° C. with stirring to encourage further precipitation. The solid was the collected by filtration and the pad was washed very well with water then dried in vacuo at 40° C. overnight to give the title compound as a cream coloured solid (152.8 g).

reactant | N,O-bis(trimethylsilyl)acetamide | 3.988 mol, 975 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2-fluoro-1H-purin-6-amine | 1.306 mmol, 200 g | FC=1NC(=C2N=CN=C2N1)N | C5H4FN5
reactant | tetrahydropyranyl acetate | 1.959 mol, 282 g | C(C)(=O)OC1OCCCC1 | C7H12O3
reactant | trimethylsilyl trifluoromethanesulfonate | 1.567 mol, 283 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 4 L | C(C)#N | C2H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
